US07425568B2
2-(2,5-Difluorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 1.0 g of 2-(2,5-difluorophenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.87 (s, 1H), 7.39-7.22 (m, 3H), 6.89 (d, 1H, J 2.8 Hz), 6.63 (d, 1H, J 8.7 Hz), 6.56 (dd, 1H, J 8.7, 2.8 Hz), 5.50 (d, 1H, J 6.8 Hz), 5.35 (d, 1H, J 11.2 Hz), 4.89 (m, 1H), 2.28 (m, 1H), 1.95 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(2,5-difluorophenyl)-6-hydroxychroman-4-one | 1.0 g | FC1=C(C=C(C=C1)F)C1OC2=CC=C(C=C2C(C1)=O)O | C15H10F2O3
product | 2-(2,5-Difluorophenyl)chroman-4,6-diol | FC1=C(C=C(C=C1)F)C1OC2=CC=C(C=C2C(C1)O)O | C15H12F2O3
